US04873236
5,11-Dihydro-11-[[[2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethy]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrobromide
A solution of 0.957 g (0.002 mol) of 5,11-dihydro-11-[[[2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one in 20 ml of ethanol was combined with 0.135 ml of a 45% aqueous hydrobromic acid solution (0.002 mol). The colourless salt mentioned above slowly crystallised out of the mixture and after being left to stand for 3 hours it was suction filtered, washed thoroughly three times with 3 ml of anhydrous ethanol and finally dried at 50° C. in a circulating air dryer.

reactant | 5,11-dihydro-11-[[[2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.002 mol, 0.957 g | C(CC)N(CCC)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H38N6O2
reactant | hydrobromic acid | 0.002 mol | Br | BrH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5,11-Dihydro-11-[[[2-[2-[(dipropylamino)methyl]-piperidin-l-yl]ethy]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrobromide | Br.C(CC)N(CCC)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C27H38N6O2.BrH/c1-3-16-31(17-4-2)20-21-10-7-8-18-32(21)19-15-29-27(35)33-24-13-6-5-11-22(24)26(34)30-23-12-9-14-28-25(23)33;/h5-6,9,11-14,21H,3-4,7-8,10,15-20H2,1-2H3,(H,29,35)(H,30,34);1H
